US07109193B2
[4-(2,5-Dimethyl-1-H-pyrrol-1-yl)-3-methoxy-phenyl][10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl]methanone
A solution of (4-amino-3-methoxy-phenyl)[10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl]methanone prepared in the manner of Albright et al., E.P.636625-A2 (0.675g, 2 mmol) and acetonyl acetone (0.3 mL, 2.5 mmol) in benzene (100 mL) was treated with a crystal of para-toluenesulfonic acid. The stirred solution was warmed to reflux for 46 hrs using a Dean Stark trap. The reaction was cooled to room temperature, diluted with dichloromethane (100 mL), washed with saturated aqueous sodium bicarbonate then water. The residue (oil, 0.900 g) was flash chromatography on silica gel eluting with 20% ethyl acetate in hexane to yield 0.610 g of the title compound as a white foam. Recrystallization of a sample of this material yielded yellow crystals, m.p. 141–144° C.

reactant | (4-amino-3-methoxy-phenyl)[10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl]methanone | NC1=C(C=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)OC | C20H19N3O2
reactant | acetonyl acetone | 2.5 mmol, 0.3 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [4-(2,5-Dimethyl-1-H-pyrrol-1-yl)-3-methoxy-phenyl][10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl]methanone | 0.610 g | CC=1N(C(=CC1)C)C1=C(C=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)OC | C26H25N3O2
